US07323475B2
{[4-Hydroxy-1-(3-methoxy-phenylsulfanyl)-isoquinoline-3-carbonyl]-amino}-acetic acid
The title compound was prepared from [(1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid (U.S. Pat. No. 6,093,730) and 3-methoxybenzenethiol under conditions analogous to Example D-110. The final product was precipitated from a solution of ethyl acetate using hexanes; MS (−) m/z 385.12 (M−1)

reactant | [(1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid | ClC1=NC(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)O | C12H9ClN2O4
reactant | 3-methoxybenzenethiol | COC=1C=C(C=CC1)S | C7H8OS
product | {[4-Hydroxy-1-(3-methoxy-phenylsulfanyl)-isoquinoline-3-carbonyl]-amino}-acetic acid | OC1=C(N=C(C2=CC=CC=C12)SC1=CC(=CC=C1)OC)C(=O)NCC(=O)O | C19H16N2O5S
